US04028379
1-Methylthio-1-ethylamino-2-nitroethylene
A solution in methanol (5 ml) of ethylamine (225 mg) was added dropwise over 2 minutes to a stirred solution in methanol (30 ml) at 32° of 1-methylsulphinyl-1-methylthio-2-nitroethylene (906 mg). Evaporation of the reaction mixture gave an oil which was crystallised from isopropanol to give the title product (230 mg) m.p. 66°-67.5°.

reactant | ethylamine | 225 mg | C(C)N | C2H7N
reactant | 1-methylsulphinyl-1-methylthio-2-nitroethylene | 906 mg | CS(=O)C(=C[N+](=O)[O-])SC | C4H7NO3S2
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 30 ml | CO | CH4O
product | 1-Methylthio-1-ethylamino-2-nitroethylene | 230 mg | CSC(=C[N+](=O)[O-])NCC | C5H10N2O2S
